US09388161B2
Iodoethane (5 μl, 0.06 mmol) was added to a solution of (S)-1-(2-methyl-6-(piperidin-4-yl)-5-propoxy-3,4-dihydroquinolin-1(2H)-yl)ethanone (20 mg, 0.06 mmol) and potassium carbonate (38 mg, 0.27 mmol) in DMF (1.0 mL), and the reaction was stirred at room temperature overnight. The reaction was quenched via the addition of water (5 mL) and extracted with ethyl acetate (2×10 mL). The organic layer was collected and further washed with water (5 mL) and brine (5 mL), dried over anhydrous sodium sulfate, filtered, and concentrated in vacuo. The residue was purified via column chromatography on silica gel (Biotage 10 g column, gradient elution with 50-80% methanol in ethyl acetate) to afford (S)-1-(6-(1-ethylpiperidin-4-yl)-2-methyl-5-propoxy-3,4-dihydroquinolin-1(2H)-yl)ethan-1-one (10 mg, 51%) as a light yellow oil. 1H NMR (300 MHz, DMSO-d6) δ ppm 0.96-1.06 (m, 6H), 1.15 (t, J=7.04 Hz, 3H), 1.15-1.26 (m, 1H), 1.38-1.61 (m, 4H), 1.66-1.89 (m, 2H), 2.20 (s, 3H), 2.16-2.28 (m, 2H), 2.52 (m, 2H), 2.67-2.80 (m, 2H), 2.83-2.94 (m, 1H), 2.92-3.07 (m, 3H), 3.58-3.72 (m, 2H), 4.40-4.63 (br d, J=6.75 Hz, 1H), 7.03 (br s, 2H). MS (ESI, pos. ion) m/z 359 [M+H]+.

reactant | Iodoethane | 0.06 mmol, 5 μl | ICC | C2H5I
reactant | (S)-1-(2-methyl-6-(piperidin-4-yl)-5-propoxy-3,4-dihydroquinolin-1(2H)-yl)ethanone | 0.06 mmol, 20 mg | C[C@@H]1N(C2=CC=C(C(=C2CC1)OCCC)C1CCNCC1)C(C)=O | C20H30N2O2
reactant | potassium carbonate | 0.27 mmol, 38 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 1.0 mL | CN(C)C=O | C3H7NO
product | (S)-1-(6-(1-ethylpiperidin-4-yl)-2-methyl-5-propoxy-3,4-dihydroquinolin-1(2H)-yl)ethan-1-one | 10 mg, 51% | C(C)N1CCC(CC1)C=1C(=C2CC[C@@H](N(C2=CC1)C(C)=O)C)OCCC | C22H34N2O2
